US07662402B2
20 ml of a 15% solution of Dess-Martin periodinane=1,1,1-tris(acetyloxy)-1,1-di-hydro-1,2-benziodoxol-3-(1H)-one in dichloromethane was added dropwise to 1.5 g of 2-(5-hydroxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile, and the mixture was stirred at room temperature for 5 hours. Thereafter, the reaction mixture was added to an aqueous dilute sodium hydroxide solution and then extracted with chloroform. The organic layer was washed successively with water and aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.0 g of 2-(5-oxopentyl)-2-(3,3,3-trifluoropropyl)malononitrile.

reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-(5-hydroxypentyl)-2-(3,3,3-trifluoropropyl)malononitrile | 1.5 g | OCCCCCC(C#N)(C#N)CCC(F)(F)F | C11H15F3N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(5-oxopentyl)-2-(3,3,3-trifluoropropyl)malononitrile | 1.0 g | O=CCCCCC(C#N)(C#N)CCC(F)(F)F | C11H13F3N2O
